US07018988B2
4-[((2S,4EZ)-4-[(benzyloxy)imino]-2-{[4-(3,4-dichlorophenyl)-1-piperazinyl]-carbonyl}pyrrolidinyl)carbonyl]benzonitrile
Following the general method as outlined in Example 22, starting from (2S,4EZ)-4-[(benzyloxy)imino]-1-(tert-butoxycarbonyl)-2-pyrrolidinecarboxylic acid, 4cyanobenzoyl chloride, and 1-(3,4-dichlorophenyl)piperazine the title compound was obtained in 43% purity by LC/MS. MS(ESI+): m/z=576.6.

reactant | (2S,4EZ)-4-[(benzyloxy)imino]-1-(tert-butoxycarbonyl)-2-pyrrolidinecarboxylic acid | C(C1=CC=CC=C1)ON=C1C[C@H](N(C1)C(=O)OC(C)(C)C)C(=O)O | C17H22N2O5
reactant | 4cyanobenzoyl chloride | C(#N)C1=CC=C(C(=O)Cl)C=C1 | C8H4ClNO
reactant | 1-(3,4-dichlorophenyl)piperazine | ClC=1C=C(C=CC1Cl)N1CCNCC1 | C10H12Cl2N2
product | 4-[((2S,4EZ)-4-[(benzyloxy)imino]-2-{[4-(3,4-dichlorophenyl)-1-piperazinyl]-carbonyl}pyrrolidinyl)carbonyl]benzonitrile | C(C1=CC=CC=C1)ON=C1C[C@H](N(C1)C(=O)C1=CC=C(C#N)C=C1)C(=O)N1CCN(CC1)C1=CC(=C(C=C1)Cl)Cl | C30H27Cl2N5O3
